### PR TITLE
[Merged by Bors] - feat: the localization of `R[X]` at `S` is the polynomial ring over the localization of `R` at `S`

### PR DESCRIPTION
**Pull request by YaelDillies**
From GrowthInGroups (LeanCamCombi)

Co-authored-by: Andrew Yang

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 1]
```diff
@@ -466,3 +466,35 @@ lemma isAlgebraic_of_isFractionRing {R S} (K L) [CommRing R] [CommRing S] [Field
...
+  constructor
+  · rintro ⟨_, r, hr, rfl⟩
+    simpa [RingHom.algebraMap_toAlgebra] using (IsLocalization.map_units A ⟨r, hr⟩).map C
+  · intro z
+    obtain ⟨b, hb⟩ := IsLocalization.integerNormalization_spec S z
+    refine ⟨⟨IsLocalization.integerNormalization S z, _, b, b.2, rfl⟩, ?_⟩
+    ext i
+    simp only [RingHom.algebraMap_toAlgebra, coe_mapRingHom, map_C, coeff_mul_C, coeff_map, hb,
+      mul_comm, Algebra.smul_def]
+  · intros x y e
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/Integral.lean:485]:
```suggestion
  · intro x y e
```

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 2]
```diff
@@ -466,3 +466,35 @@ lemma isAlgebraic_of_isFractionRing {R S} (K L) [CommRing R] [CommRing S] [Field
     apply IsIntegral.tower_top (R := R)
     apply IsIntegral.map (IsScalarTower.toAlgHom R S L)
     exact Algebra.IsIntegral.isIntegral (s : S)
+
+namespace Polynomial
+
+lemma isLocalization {R} [CommRing R] (S : Submonoid R) (A) [CommRing A] [Algebra R A]
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/Integral.lean:472]: I wonder if this is the correct file for this lemma, it seems to me that it has nothing to do with Integral elements. Perhaps in Localization.Algebra?

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 3]
```diff
@@ -466,3 +466,35 @@ lemma isAlgebraic_of_isFractionRing {R S} (K L) [CommRing R] [CommRing S] [Field
...
+    ext i
+    simp only [RingHom.algebraMap_toAlgebra, coe_mapRingHom, map_C, coeff_mul_C, coeff_map, hb,
+      mul_comm, Algebra.smul_def]
+  · intros x y e
+    rw [← sub_eq_zero, ← map_sub, RingHom.algebraMap_toAlgebra, ← RingHom.mem_ker,
+      Polynomial.ker_mapRingHom, Ideal.mem_map_C_iff] at e
+    simp only [coeff_sub, RingHom.mem_ker, map_sub, sub_eq_zero,
+      IsLocalization.eq_iff_exists S] at e
+    choose c hc using e
+    refine ⟨⟨_, _, ((x.support ∪ y.support).prod c).2, rfl⟩, ?_⟩
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/Integral.lean:491]: What is going on here mathematically? You're comparing two polynomials that you want to show equal, why do you care about the support? I am asking mainly to see how much pain would be to generalize this to power series and/or MVpolynomials.

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Localization/Integral.lean:472]: The proof uses `IsLocalization.integerNormalization_spec`, which is proved in this file, so I think it's the right spot?

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Localization/Integral.lean:491]: Should work just the same for power series and mv polynomials, yes. We have a sequence `c` such that `c n * x.coeff n = c n * y.coeff n` for all `n`. Now we want to find a single `c'` such that `c * x = c * y`. Answer: take a common multiple of all the `c n` for which either `x.coeff n` or `y.coeff n` is non-zero.

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Localization/Integral.lean:485]: Isn't this precisely the use case of `ìntros`? I don't really see the point of changing here

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/RingTheory/Localization/Integral.lean:472]: Yes, I agree, but in a sense this is an accident: see Bourbaki, Alg. Comm, Chap III, § 2, no. 8 for the proof that localization commutes more generally with symmetric algebras (over any ring, no need for it to be commutative btw), and univariate polynomials are a special case. Now, I am of course not arguing that we should first define symmetric algebras and prove the result in that generality, it is great to have this result now. But I feel that from a math point of view this result is unrelated to integrality and should be in its "moral" home, even if it is not yet clear why it is there. Can't you simply import `isLocalization.integerNormalization_spec` in `Localization.Algebra`?

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/RingTheory/Localization/Integral.lean:491]: Since this is not the "usual math proof" (to my knowledge), would you mind half-a-line of doc in this proof to make this explicit? I think it can be interesting while inspecting it later on.

**Comment by YaelDillies** [comment]
@faenuccio, are +326 imports really worth it?

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Localization/Integral.lean]: At this point, I would rather wait for the `intro ..` syntax to replace `intros` rather than thinking about the color of the bikeshed myself

**Comment by YaelDillies** [comment]
The corresponding result for `MvPolynomial` lives in `RingTheory.MvPolynomial.Localization`. Should I create a new file `RingTheory.Polynomial.Localization`? What do you think, @faenuccio ?

**Review by alreadydone — COMMENTED** [review]
I think the title should say "... is the polynomial ring over the localization of `R` at `S`"?
I'm considering using [polyEquivTensor](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PolynomialAlgebra.html#polyEquivTensor), [isLocalizedModule_iff_isBaseChange](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/BaseChange.html#isLocalizedModule_iff_isBaseChange) and [isLocalizedModule_iff_isLocalization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LocalizedModule/IsLocalization.html#isLocalizedModule_iff_isLocalization) to golf the proof, and also generalize to CommSemirings.

**Comment by YaelDillies** [comment]
Yes, well spotted.

Feel free to push anything to this PR so long as you can keep #20303 compiling!

**Review by alreadydone — APPROVED** [review]
Import increase looks reasonable as only three files are affected.
#20309 is the golf for MvPolynomial.

**Comment by alreadydone** [comment]
Could @faenuccio take another look? The import increase has reduced from 31.47% to 8.20%, and it doesn't have a global effect (only affects three files).

**Review by faenuccio — COMMENTED** [review]
I am sorry for the late review. I am happy with all changes, I would simply add a small doc to `isLocalization` (including at the beginning of the file), and perhaps a reference to the MV case, should a user looking for the MV case stumble upon the univariate one.

**Comment by faenuccio** [comment]
Thanks

**Comment by faenuccio** [comment]
maintainer merge

File: Mathlib/RingTheory/Localization/Algebra.lean [hunk 4]
```diff
@@ -142,3 +144,21 @@ lemma AlgHom.toKerIsLocalization_isLocalizedModule (f : A →ₐ[R] B) :
     (algebraMapSubmonoid_map_eq M f)
 
 end Algebra
+
+namespace Polynomial
+
+/-- If `S` is the localization of `R` at a submonoid `M`, then `S[X]` is the localization of
+`R[X]` at `M.map Polynomial.C`.
```
Comment (ocfnash) [inline Mathlib/RingTheory/Localization/Algebra.lean:151]: Somehow the doc string seems to be confused, shouldn't this say:
```suggestion
/-- If `A` is the localization of `R` at a submonoid `S`, then `A[X]` is the localization of
`R[X]` at `S.map Polynomial.C`.
```

**Review by ocfnash — APPROVED** [review]
Given that so few files are accepted, I think we can accept the import increase.

Please fix the doc string and then feel free to merge.

bors d+

File: Mathlib/RingTheory/Localization/Algebra.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Localization/Algebra.lean:151]: Do you mean that docstrings are not invariant under alpha-equivalence? 😱

**Comment by YaelDillies** [comment]
bors merge
